US04040811
Production of N-methyl-N-(2,5-dichlorophenylsulfenyl)-N'-(2'-chloro-6'-methylphenyl)-formamidine
32.1 g of 2,5-dichlorophenylsulfenyl chloride is added dropwise at 5°-10° C., with continuous stirring, to a solution of 27.4 g of N-methyl-N'-(2'-chloro-6'-methylphenyl)-formamidine in 70 ml of pyridine. The mixture is stirred for 20 minutes at room temperature; the excess pyridine is then removed at 1 mm Hg pressure and 50° C.

reactant | 2,5-dichlorophenylsulfenyl chloride | 32.1 g | ClC1=C(C=C(C=C1)Cl)SCl | C6H3Cl3S
reactant | N-methyl-N'-(2'-chloro-6'-methylphenyl)-formamidine | 27.4 g | CNC=NC1=C(C=CC=C1C)Cl | C9H11ClN2
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | N-methyl-N-(2,5-dichlorophenylsulfenyl)-N'-(2'-chloro-6'-methylphenyl)-formamidine | CN(C=NC1=C(C=CC=C1C)Cl)SC1=C(C=CC(=C1)Cl)Cl | C15H13Cl3N2S
